US09107916B2
A. 2-{5-[(3-bromobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-bromophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.22 (2H, s), 5.74 (1H, s), 7.28 (1H, d, J=7.6 Hz), 7.35 (1H, d, J=7.6 Hz), 7.42 (1H, d, J=4.4 Hz), 7.49 (1H, d, J=8.0 Hz), 7.57 (1H, d, J=1.2 Hz), 7.64 (1H, s), 8.05 (1H, s), 8.72 (1H, d, J=4.8 Hz). [M+H] Calc'd for C16H11BrN4O, 355. Found, 355.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-bromophenyl)methanol | BrC=1C=C(C=CC1)CO | C7H7BrO
product | 2-{5-[(3-bromobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | BrC=1C=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=CC1 | C16H11BrN4O
